US06498256B2
a) Preparation of (3′,5′-dimethylbenzoyl)-L-threonine methyl ester (A14a)
1.00 g (6.66 mmol/1 eq) of 3,5-dimethylbenzoic acid and 1.13 g (6.66 mmol/1 eq) of L-threonine methyl ester hydrochloride are suspended in 50 ml dichloromethane. At 0° C., 2.04 ml (14.7 mmol/2.2 eq) of triethylamine are added dropwise. After 10 minutes' stirring, 2.55 g (13.3 mmol/2 eq) of N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride (EDC) are added, and after a further 15 min 1-hydroxybenzotriazole (HOBt) is added. Stirring is carried out for twelve hours, the solution assuming room temperature. The organic phase is washed with 10 ml each of H2O, hydrochloric acid (2N), and NaHCO3 solution. After drying over magnesium sulfate, the solvent is removed in vacuo. 1.70 g (6.41 mmol/96%) of a white solid are obtained, which may, if desired, be recrystallised from absolute diethyl ether.

reactant | 3,5-dimethylbenzoic acid | 6.66 mmol, 1.00 g, 1 eq | CC=1C=C(C(=O)O)C=C(C1)C | C9H10O2
reactant | L-threonine methyl ester hydrochloride | 6.66 mmol, 1.13 g, 1 eq | Cl.COC([C@@H](N)[C@H](O)C)=O
reactant | triethylamine | 14.7 mmol, 2.04 ml, 2.2 eq | C(C)N(CC)CC | C6H15N
reactant | N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride | 13.3 mmol, 2.55 g, 2 eq | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (3′,5′-dimethylbenzoyl)-L-threonine methyl ester | COC([C@@H](NC(C1=CC(=CC(=C1)C)C)=O)[C@H](O)C)=O | C14H19NO4
